US08293738B2
6-bromo-3-iodo-1H-indazole
A solution of 6-bromo-1H-indazole (10 g, 50.8 mmol, commercially available) in dioxane (200 ml) was treated with 3N aqueous NaOH (100 ml). The vigorously stirred mixture was treated with iodine (27.1 g, 107 mmol), added portionwise over 5 minutes then stirred for 60 minutes. The reaction was quenched with 200 ml of 20% citric acid solution, followed by 160 ml of saturated NaHSO3 solution, then partitioned between ethyl acetate and water. The organic extract was dried with MgSO4 and concentrated to a solid which was triturated with ether and pentane to afford the title compound.

reactant | 6-bromo-1H-indazole | BrC1=CC=C2C=NNC2=C1 | C7H5BrN2
reactant | NaOH | 3N, 100 ml | [OH-].[Na+]
reactant | iodine | 107 mmol, 27.1 g | II | I2
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | 6-bromo-3-iodo-1H-indazole | BrC1=CC=C2C(=NNC2=C1)I | C7H4BrIN2
